US06159990
To a solution of 1-[amino-(3,4-difluoro-phenyl)methyl]-cyclobutanol (approximately 8.1 mmol) in CH2Cl2 (50 mL) at 0° C. was added a solution of di-tert-butyl dicarbonate (3.5 g, 16.2 mmol) in one portion and the resulting solution was stirred for 2 h at room temperature. The solvent was removed in vacuo and the residue was subjected to column chromatography on silica gel (9:1 cyclohexane-EtOAc followed by 4:1 cyclohexane-EtOAc) to obtain [(3,4-difluorophenyl)-(1-hydroxy-cyclobutyl)-methyl]-carbamic acid-tert-butyl ester as a viscous oil (1.0 g, 40% yield over four steps).

reactant | 1-[amino-(3,4-difluoro-phenyl)methyl]-cyclobutanol | approximately 8.1 mmol | NC(C1(CCC1)O)C1=CC(=C(C=C1)F)F | C11H13F2NO
reactant | di-tert-butyl dicarbonate | 16.2 mmol, 3.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | [(3,4-difluorophenyl)-(1-hydroxy-cyclobutyl)-methyl]-carbamic acid-tert-butyl ester | 40% yield | C(C)(C)(C)OC(NC(C1(CCC1)O)C1=CC(=C(C=C1)F)F)=O | C16H21F2NO3
